US06156700
Preparation of [(5-Nitro-1,2-benzisothiazol-3-yl)-oxy]acetonitrile
A mixture of 5-nitro-1,2-benzisothiazol-3(2H)-one (17.5 g, 89.2 mmol) in N,N-dimethylformamide is treated with potassium carbonate (18.5 g, 134 mmol), stirred at room temperature for 30 minutes, treated with bromoacetonitrile (16.0 g, 133 mmol), stirred at room temperature overnight, and poured onto ice. The resultant aqueous mixture is acidified to pH 3 with hydrochloric acid and extracted with ethyl acetate. The combined organic extracts are washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain a solid. Column chromatography of the solid using silica gel and methylene chloride gives the title product as a yellow solid (15.0 g, mp 123-124.5° C.).

reactant | 5-nitro-1,2-benzisothiazol-3(2H)-one | 89.2 mmol, 17.5 g | [N+](=O)([O-])C=1C=CC2=C(C(NS2)=O)C1 | C7H4N2O3S
reactant | potassium carbonate | 134 mmol, 18.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetonitrile | 133 mmol, 16.0 g | BrCC#N | C2H2BrN
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [(5-Nitro-1,2-benzisothiazol-3-yl)-oxy]acetonitrile | 15.0 g | [N+](=O)([O-])C=1C=CC2=C(C(=NS2)OCC#N)C1 | C9H5N3O3S
